US07148229B2
A solution of (4-tert-butoxycarbonylamino-phenyl)-acetic acid in N,N-dimethylformamide under argon at 25° C. was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The reaction was stirred at 25° C. for 5 min. At this time, the reaction was treated with 5,6-diamino-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione and 4-dimethylarninopyridine. The reaction was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (75 mL) and then acidified to pH=5 with a 1.0N aqueous hydrochloric acid solution. The resulting solid was collected by filtration, rinsed well with water and cold ether, and dried in vacuo to afford (4-{[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester (4.10 g, 91%) as a yellow solid; LRMS for C28H32FN5O5 (M+H)+ at m/z=538.

reactant | (4-tert-butoxycarbonylamino-phenyl)-acetic acid | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 5,6-diamino-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione | NC=1C(N(C(NC1N)=O)CC1=C(C=CC=C1)F)=O | C11H11FN4O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | 4-dimethylarninopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-{[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester | 4.10 g, 91% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(NC1N)=O)CC1=C(C=CC=C1)F)=O)=O)=O | C24H26FN5O5
